US04663331
Sodium (0.264 mol) was added in portions to ethanol (100 ml). When dissolution had occurred, the mixture was cooled to 0° C. and cysteamine hydrochloride (0.088 mol) was added with stirring. When all of the cysteamine had dissolved, 4-dimethylamino-1-chloro-2-butyne hydrochloride (0.088 mol) in ethanol (100 ml) was added dropwise with stirring whilst maintaining the temperature of the reaction mixture below 10° C. The reaction mixture was allowed to warm to room temperature overnight and evaporated under reduced pressure to afford an oil. This oil was taken up in aqueous solution (pH3), taken to pH8 with sodium bicarbonate and extracted with ethyl acetate. The aqueous layer was taken to pH12 and extracted with ethyl acetate. The combined ethyl acetate extracts were dried (MgSO4), filtered and evaporated to afford slightly impure 2-(4-dimethylamino-but-2-ynylthio)ethylamine as a reddish-brown oil (6.63 g).

reactant | Sodium | 0.264 mol | [Na] | Na
reactant | cysteamine hydrochloride | 0.088 mol | Cl.NCCS
reactant | cysteamine | NCCS | C2H7NS
reactant | 4-dimethylamino-1-chloro-2-butyne hydrochloride | 0.088 mol | Cl.CN(CC#CCCl)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(4-dimethylamino-but-2-ynylthio)ethylamine | 6.63 g | CN(CC#CCSCCN)C | C8H16N2S
